US09079880B2
Cool a solution of 3-((S)-1-tert-butoxycarbonyl-ethoxy)-benzoic acid methyl ester (0.80 g, 2.85 mmol) in methylene chloride (10 mL) to 0° C. and add trifluoroacetic acid (0.98 g 8.60 mmol). Warm the mixture to room temperature and stir overnight. Dilute the mixture with water and extract with methylene chloride. Concentrate the combined organic phase under reduced pressure and purify the residue by trituration with hexanes and methylene chloride to provide 0.40 g of 3-((S)-1-carboxy-ethoxy)-benzoic acid methyl ester as a solid.

reactant | 3-((S)-1-tert-butoxycarbonyl-ethoxy)-benzoic acid methyl ester | 2.85 mmol, 0.80 g | COC(C1=CC(=CC=C1)O[C@@H](C)C(=O)OC(C)(C)C)=O | C15H20O5
reactant | trifluoroacetic acid | 8.60 mmol, 0.98 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-((S)-1-carboxy-ethoxy)-benzoic acid methyl ester | 0.40 g | COC(C1=CC(=CC=C1)O[C@@H](C)C(=O)O)=O | C11H12O5
